US08466186B2
(i) 2-Amino-N-{4-chloro-3-[5-chloro-1-methyl-6-(3-(trifluoromethyl)piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzyl}-3,3,3-trifluoro-2-methylpropanamide
TBTU (106 mg, 0.3 mmol) followed by TEA (126 μL, 0.9 mmol) were added to 2-amino-3,3,3-trifluoro-2-methylpropanoic acid (57 mg, 0.4 mmol) in DMF (2 mL). After 5 min at rt a mixture of 4-chloro-3-[5-chloro-1-methyl-6-(3-(trifluoromethyl)piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzylamine (142 mg, 0.3 mmol) and DMF (2 mL) was added to the reaction mixture and stirred at rt overnight. The reaction mixture was purified by chromatography to give the title compound.

reactant | TBTU | 0.3 mmol, 106 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2-amino-3,3,3-trifluoro-2-methylpropanoic acid | 0.4 mmol, 57 mg | NC(C(=O)O)(C(F)(F)F)C | C4H6F3NO2
reactant | 4-chloro-3-[5-chloro-1-methyl-6-(3-(trifluoromethyl)piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzylamine | 0.3 mmol, 142 mg | ClC1=C(C=C(CN)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CC(CCC2)C(F)(F)F | C21H22Cl2F3N5
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-Amino-N-{4-chloro-3-[5-chloro-1-methyl-6-(3-(trifluoromethyl)piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzyl}-3,3,3-trifluoro-2-methylpropanamide | NC(C(=O)NCC1=CC(=C(C=C1)Cl)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CC(CCC2)C(F)(F)F)(C(F)(F)F)C | C25H26Cl2F6N6O
